US09079861B2
A 50-mL round-bottomed flask was charged with methyl (S)-1-(4-bromophenyl)ethyl((S)-3-((S)-1,1-dimethylethylsulfinamido)-3-(4-fluorophenyl)hex-5-enyl)carbamate (96 mg, 0.17 mmol) and 4 M HCl in dioxane (10 mL, 40 mmol) while cooling in an ice-water bath. The reaction mixture was concentrated to give crude methyl (S)-3-amino-3-(4-fluorophenyl)hex-5-enyl((S)-1-(4-bromophenyl)ethyl)carbamate, which was used to the next step without purification.

reactant | methyl (S)-1-(4-bromophenyl)ethyl((S)-3-((S)-1,1-dimethylethylsulfinamido)-3-(4-fluorophenyl)hex-5-enyl)carbamate | 0.17 mmol, 96 mg | BrC1=CC=C(C=C1)[C@H](C)N(C(OC)=O)CC[C@@](CC=C)(C1=CC=C(C=C1)F)N[S@@](=O)C(C)(C)C | C26H34BrFN2O3S
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
product | methyl (S)-3-amino-3-(4-fluorophenyl)hex-5-enyl((S)-1-(4-bromophenyl)ethyl)carbamate | N[C@](CCN(C(OC)=O)[C@@H](C)C1=CC=C(C=C1)Br)(CC=C)C1=CC=C(C=C1)F | C22H26BrFN2O2
